US09259470B2
N,N-Dimethylpyridin-4-amine (460 mg, 3.76 mmol) and di-tert-butyl dicarbonate (6.17 g, 28.3 mmol) were added to a solution of methyl 1H-indole-1,6-dicarboxylate (3.30 g, 18.8 mmol) in acetonitrile (60 mL) at room temperature. The reaction mixture was stirred at room temperature overnight. After removal of the solvent, the residue was purified by silica gel chromatography, eluting with petroleum ether/ethyl acetate (10:1) to afford 1-tert-butyl 6-methyl 1H-indole-1,6-dicarboxylate (4.9 g, 95% yield) as a solid. LCMS (ESI) m/z 220.1 [M+H-56]+, 276.1 [M+H]+.

reactant | di-tert-butyl dicarbonate | 28.3 mmol, 6.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 1H-indole-1,6-dicarboxylate | 18.8 mmol, 3.30 g | N1(C=CC2=CC=C(C=C12)C(=O)[O-])C(=O)OC
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
catalyst | N,N-Dimethylpyridin-4-amine | 3.76 mmol, 460 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butyl 6-methyl 1H-indole-1,6-dicarboxylate | 4.9 g, 95% yield | N1(C=CC2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C | C15H17NO4
